US06531502B1
A mixture of 103 mg 6-(4-methoxyphenyl)-2-oxindole, 95 mg 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid and piperidine (3 drops) in ethanol (2 mL) was heated to 90° C. in a sealed tube and held there for 4 hrs. The reaction mixture was concentrated and acidified with 6 N hydrochloric acid. Ethyl acetate was added upon which a solid precipitated from the aqueous layer. The precipitate was collected by filtration, and washed with water and hexane to give 57 mg of 3-{2-[6-(4-Methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propionic acid as a brown solid (30%).

reactant | 6-(4-methoxyphenyl)-2-oxindole | 103 mg | COC1=CC=C(C=C1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
reactant | 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 95 mg | C(=O)C=1NC=2CCCCC2C1CCC(=O)O | C12H15NO3
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{2-[6-(4-Methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propionic acid | 57 mg, 30% | COC1=CC=C(C=C1)C1=CC=C2C(C(NC2=C1)=O)=CC=1NC=2CCCCC2C1CCC(=O)O | C27H26N2O4
